US04009184
2-(p-Tolyl)-3-[3-(dimethylamino)propionyl] benzofuran.
To a solution of 20 grams of 2-(p-tolyl)-3-acetylbenzofuran in 80 milliliters of isopropanol was added 3.4 grams of paraformaldehyde, 9.1 grams of dimethylamine hydrochloride, and 8 milliliters of a saturated solution of hydrogen chloride in ethanol, and the mixture was heated under gentle reflux for a period of 8 hours. The solvent was evaporated under vacuum and the residue was taken up in water and ethyl ether was then added thereto to dissolve and extract the water-insoluble solids from the solution. The ether extract was then separated from the aqueous layer and the aqueous layer was made alkaline by the addition thereto of a 5% aqueous solution of sodium hydroxide. The precipitated oily base was then extracted with ethyl ether from the aqueous solution, washed with several portions of water, and dried over anhydrous sodium sulfate. A solution of hydrogen chloride in ethanol was then added to the dried ether extract and the crystals of the hydrochloride of the compound named in the heading of this example which were thus precipitated were separated by suction filtration and recrystallized by dissolving them in ethanol and precipitating them by the addition of ethyl ether to the ethanol solution. In this manner, 9.1 grams of the hydrochloride, which had a melting point of 136°-138° C, was obtained.

reactant | 2-(p-tolyl)-3-acetylbenzofuran | 20 grams | C1(=CC=C(C=C1)C=1OC2=C(C1C(C)=O)C=CC=C2)C | C17H14O2
reactant | paraformaldehyde | 3.4 grams | C=O | CH2O
reactant | dimethylamine hydrochloride | 9.1 grams | Cl.CNC
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | 80 milliliters | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | 2-(p-Tolyl)-3-[3-(dimethylamino)propionyl] benzofuran | C1(=CC=C(C=C1)C=1OC2=C(C1C(CCN(C)C)=O)C=CC=C2)C | C20H21NO2
